US07834063B2
4-[[2-(1H-Indol-5-yloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C using 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 5-hydroxyindole: MS (APCI) m/z 426 (M−1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 5-hydroxyindole | OC=1C=C2C=CNC2=CC1 | C8H7NO
product | 4-[[2-(1H-Indol-5-yloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | N1C=CC2=CC(=CC=C12)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C20H15F6N3O
